US05187165
(3aS-cis)-6-Formyl-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indol-5-ol salicylate hemihydrate
A solution prepared from 6-formyl-N,N-diethylcarbamate ester of eseroline (960 mg) in ethanol (20 ml) and 10% NaOH (10 ml) was degassed and heated at 45° C. for 30 minutes. The solution was poured into degassed sodium bicarbonate solution (15 ml) and extracted with ethyl acetate (3×150 ml). The ethyl acetate solution was washed with brine (150 ml), dried over MgSO4, and concentrated to an oil. Purification was effected by flash chromatography over silica gel using 1% CH3OH/DCM. The pure product thus obtained weighed 722 mg as an oil. The oil was dissolved in ether (15 ml) and treated with a solution of salicylic acid (405 mg) in ether (20 ml). The crystalline product weighed 1.04 g, mp 156°-157° C.

reactant | eseroline | 960 mg | C[C@@]12CCN([C@@H]1N(C3=C2C=C(C=C3)O)C)C | C13H18N2O
reactant | salicylic acid | 405 mg | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | NaOH | 10 ml | [OH-].[Na+]
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | (3aS-cis)-6-Formyl-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indol-5-ol salicylate hemihydrate | O.C(C=1C(O)=CC=CC1)(=O)OC=1C=C2[C@]3([C@@H](N(C2=CC1C=O)C)N(CC3)C)C.C(=O)C3=C(C=C1[C@]2([C@@H](N(C1=C3)C)N(CC2)C)C)OC(C=2C(O)=CC=CC2)=O | InChI=1S/2C21H22N2O4.H2O/c2*1-21-8-9-22(2)20(21)23(3)16-10-13(12-24)18(11-15(16)21)27-19(26)14-6-4-5-7-17(14)25;/h2*4-7,10-12,20,25H,8-9H2,1-3H3;1H2/t2*20-,21+;/m11./s1
